US06323197B1
82 mg of 2-bromo-3-(3-pyridyl)-8-methoxy-6-phenyl-11H-imidazo[1,2-c][2,3]benzodiazepine is mixed in 3 ml of toluene and 0.5 ml of dimethylformamide with 650 mg of (1-ethoxyvinyl)tributylstannane and 10 mg of palladium(O)tetrakistriphenylphosphine, and it is heated for 4 hours to a bath temperature of 120° C. Then, (1-ethoxyvinyl)tributylstannane and 10 mg of palladium(O)tetrakistriphenylphosphine are added again, and it is heated for 10 hours to a bath temperature of 120° C. After cooling, it is mixed with 2 ml of 1N hydrochloric acid, stirred for 10 minutes, made alkaline with ammonia and shaken out with ethyl acetate. The ethyl acetate phase is washed with water and saturated common salt solution, dried, filtered and concentrated by evaporation. After chromatography of the residue on silica gel with ethyl acetate as an eluant, 20 mg of 2-acetyl-3-(3-pyridyl)-8-methoxy-6-phenyl-11H-imidazo[1,2-c][2,3]benzodiazepine is obtained.

reactant | 2-bromo-3-(3-pyridyl)-8-methoxy-6-phenyl-11H-imidazo[1,2-c][2,3]benzodiazepine | 82 mg | BrC=1N=C2N(N=C(C3=C(C2)C=CC(=C3)OC)C3=CC=CC=C3)C1C=1C=NC=CC1 | C23H17BrN4O
reactant | (1-ethoxyvinyl)tributylstannane | 650 mg | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 2-acetyl-3-(3-pyridyl)-8-methoxy-6-phenyl-11H-imidazo[1,2-c][2,3]benzodiazepine | 20 mg | C(C)(=O)C=1N=C2N(N=C(C3=C(C2)C=CC(=C3)OC)C3=CC=CC=C3)C1C=1C=NC=CC1 | C25H20N4O2
